US04880809
Using 6,7-dimethoxy-2-naphthoic acid (0.7 g), 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (1.1 g), triethylamine (1.25 g), N,N-dimethylformamide (20 ml) and diethyl phosphorocyanidate (1 ml), an amidation as that described in Example 6 is carried out. The product is purified by silica gel column chromatography (hexane:acetone=2:3) and converted to the hydrochloride in ethyl acetate to give 1-(6,7-dimethoxy-2-naphthoyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride (1.25 g) as colorless crystals, m.p. 235°-240° C. (decomp.).

reactant | 6,7-dimethoxy-2-naphthoic acid | 0.7 g | COC=1C=C2C=CC(=CC2=CC1OC)C(=O)O | C13H12O4
reactant | 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride | 1.1 g | Cl.Cl.COC=1C=C(CN2CCNCC2)C=C(C1OC)OC
reactant | triethylamine | 1.25 g | C(C)N(CC)CC | C6H15N
reactant | diethyl phosphorocyanidate | 1 ml | P(OCC)(OCC)(=O)C#N | C5H10NO3P
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-(6,7-dimethoxy-2-naphthoyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride | 1.25 g | Cl.COC=1C=C2C=CC(=CC2=CC1OC)C(=O)N1CCN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C27H32N2O6.ClH/c1-31-22-15-19-6-7-20(14-21(19)16-23(22)32-2)27(30)29-10-8-28(9-11-29)17-18-12-24(33-3)26(35-5)25(13-18)34-4;/h6-7,12-16H,8-11,17H2,1-5H3;1H
